US05695684
0.70 g (2.29 mM) of 2-(4-pentylphenyl)-6-methoxyquinoline, 4.6 ml of acetic acid and 4.3 ml of 47%-hydrobromic acid were placed in a 30 ml-round bottomed flask, followed by refluxing for 33 hours under stirring. After the reaction, the reaction mixture was poured into ice water to precipitate a crystal. The crystal was recovered by filtration and dispersed in water. To the mixture, an appropriate amount of ethyl acetate was added, followed by stirring at room temperature. Under stirring, 1.5 g of sodium hydrogencarbonate was gradually added to the resultant mixture. The organic (ethyl acetate) layer was washed with water and dried with anhydrous sodium sulfate, followed by evaporation under reduced pressure to obtain a residue. To the residue, an appropriate amount of hexane was added, followed by filtration to obtain 0.58 g of 2-(4-pentylphenyl)-6-hydroxyquinoline (as a precipitated crystal) (Yield: 86.8%).

reactant | 2-(4-pentylphenyl)-6-methoxyquinoline | 2.29 mM, 0.70 g | C(CCCC)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C=C1)OC | C21H23NO
reactant | acetic acid | 4.6 ml | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | Br | BrH
solvent | hexane | CCCCCC | C6H14
product | 2-(4-pentylphenyl)-6-hydroxyquinoline | 0.58 g, Yield: 86.8% | C(CCCC)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C=C1)O | C20H21NO
